US07687491B2
(10d) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1d) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carbonitrile (0.93 g, 3.3 mmol) that was obtained in Example 10 (10c) and a 40% aqueous solution of hydroxylamine (0.5 mL)). Subsequently, the crude product of the title compound thus obtained was purified by recrystallization from hexane (6:4) to afford the title compound (0.60 g) in a yield of 60% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carbonitrile | 3.3 mmol, 0.93 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C#N)CC | C14H23NOSSi
reactant | hydroxylamine | 0.5 mL | NO | H3NO
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C(N)=NO)CC | C14H26N2O2SSi
